US08536346B2
2-Methyltryptamine (50 g, 287 mmole) and (E)-3-(4-formyl-phenyl)-acrylic acid methyl ester (54.6 g, 287 mmole) are suspended in methanol (514 g). The solution is stirred for 1 hour at 20-25° C., to allow the formation of the imine intermediate. The solution is cooled to −15° C. within ca. 20 minutes. Sodium borohydride (5.43 g, 143.5 mmole) is added in several portions during ca. 1 hour while maintaining the temperature at −15° C. to −10° C. The reaction mixture is stirred for additional 30 minutes at this temperature and the temperature is raised to 20-25° C. within ca. 25 minutes. The reaction mixture is stirred for 30 minutes at 20-25° C. and water (80 g) is slowly added while maintaining the temperature at 20-25° C. An aqueous solution of hydrochloric acid (70.5 g concentrated HCl in 50 g of water) is slowly added to the reaction mixture such that the temperature is maintained at 20-25° C. and the hydrogen gas evolution can be controlled. The addition needs ca. 1 hour in this case. A second portion of aqueous hydrochloric acid solution (70.5 g concentrated HCl in 50 g water) is added within 30 minutes and the temperature is raised to 65° C. within 30 minutes. The suspension is stirred for 30 minutes at 65° C. and the temperature is lowered to −15° C. within 45 minutes. After 10 minutes stirring at −15° C., the temperature is raised again to 65° C. and the suspension is stirred for 30 minutes at this temperature. Finally, the suspension is cooled to −15° C. within 45 minutes and stirring is continued for additional 30 minutes at this temperature. The product is isolated by filtration and the wet filter cake is washed with pre-cooled (−15° C.) methanol (2×150 g). The wet product is dried at 50° C. under reduced pressure to obtain pure (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]-phenyl)-acrylic acid methyl ester hydrochloride salt as product. The product has usually >99 area % purity according to HPLC. IR, NMR and HR-MS confirmed the proposed structure. Melting point: decomposition starting at 251-252° C.

reactant | 2-Methyltryptamine | 287 mmole, 50 g | CC1=C(CCN)C2=CC=CC=C2N1 | C11H14N2
reactant | (E)-3-(4-formyl-phenyl)-acrylic acid methyl ester | 287 mmole, 54.6 g | COC(\C=C\C1=CC=C(C=C1)C=O)=O | C11H10O3
reactant | Sodium borohydride | 143.5 mmole, 5.43 g | [BH4-].[Na+]
reactant | hydrochloric acid | 70.5 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 70.5 g | Cl | ClH
solvent | methanol | 514 g | CO | CH4O
solvent | water | 80 g | O | H2O
product | (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]-phenyl)-acrylic acid methyl ester hydrochloride salt | Cl.COC(\C=C\C1=CC=C(C=C1)CNCCC1=C(NC2=CC=CC=C12)C)=O | InChI=1S/C22H24N2O2.ClH/c1-16-19(20-5-3-4-6-21(20)24-16)13-14-23-15-18-9-7-17(8-10-18)11-12-22(25)26-2;/h3-12,23-24H,13-15H2,1-2H3;1H/b12-11+;
